US09169259B2
To a solution of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (550 mg, 1.68 mmol) and 4-tert-butylphenylboronic acid (345 mg, 2.52 mmol) in dioxane/H2O (20 mL/2 mL) was added Na2CO3 (356 mg, 3.36 mmol) followed by Pd(dba)2 (193 mg, 0.336 mmol) and X-Phos (80 mg, 0.168 mmol) under nitrogen with stirring. The mixture was refluxed for 16 h under nitrogen. After cooling, the solvent was concentrated in vacuo. The residue was purified by chromatography (silica, petroleum ether:EtOAc=3:1 to 1:1) to give 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol (565 mg, 87%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 9.61 (s, 1H), 9.58 (s, 1H), 8.72 (s, 1H), 8.16 (s, 1H), 7.62 (s, 1H), 7.44-7.26 (m, 2H), 6.90-6.86 (m, 2H), 6.71 (d, 1H, J=7.8 Hz), 6.05 (d, 1H, J=8.1 Hz), 4.22-4.18 (m, 1H), 3.55-3.53 (m, 1H), 3.42-3.37 (m, 1H), 2.10-1.96 (m, 3H), 1.66 (brs, 1H), 1.13 (d, 3H, J=6.0 Hz). LC/MS: 387 [M+H]+; 385 [M−H]−, tR=1.72 min. HPLC: 95.63% at 214 nm, 95.18% at 254 nm, tR=2.72 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 1.68 mmol, 550 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 4-tert-butylphenylboronic acid | 2.52 mmol, 345 mg | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | Na2CO3 | 3.36 mmol, 356 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | X-Phos | 0.168 mmol, 80 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | dioxane H2O | 20 mL | O1CCOCC1.O
catalyst | Pd(dba)2 | 0.336 mmol, 193 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol | 565 mg, 87% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C=CC1)O)C=CN2 | C22H22N6O
